US03969518
3-Chloromethyl-6-bromo-7-sulfamoyl-1,2,4-benzothiadiazine-1,1-dioxide
A mixture of 2,4-disulfamoyl-5-bromoaniline (0.02 mole) and chloroacetyl chloride (0.022 mole) in 75 ml. of dioxane is heated under reflux for about 24 hours and then concentrated to dryness. The residue is dissolved in ethanol and then heated on the steam bath in a mixture of 2.0 g. of potassium or sodium acetate and 50 ml. of water for two hours. The solution is cooled and the product separated by acidification with hydrochloric acid and purified by recrystallization from a mixture of ethanol and water.

reactant | 2,4-disulfamoyl-5-bromoaniline | 0.02 mole | S(N)(=O)(=O)C1=C(N)C=C(C(=C1)S(N)(=O)=O)Br | C6H8BrN3O4S2
reactant | chloroacetyl chloride | 0.022 mole | ClCC(=O)Cl | C2H2Cl2O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 3-Chloromethyl-6-bromo-7-sulfamoyl-1,2,4-benzothiadiazine-1,1-dioxide | ClCC=1NS(C2=C(N1)C=C(C(=C2)S(N)(=O)=O)Br)(=O)=O | C8H7BrClN3O4S2
